US04299829
To dimethylformamide (0.65 g) was added dried ethyl acetate (3 ml), and the mixture was solidified by dropwise addition of phosphorus oxychloride (1.37 g) under cooling at 0° C. in dry ice-acetone bath over 15 minutes followed by stirring at the same temperature for a while. Dried ethyl acetate (20 ml) was added thereto and 2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetic acid (syn isomer), which can be represented as 2-ethoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetic acid (syn isomer), (2.00 g) was added thereto. The resulting mixture was stirred for an hour at the same temperature and thereto was added ethyl acetate (30 ml) and stirring was continued at the same temperature for an hour, during which period a homogeneous solution was obtained. Thus obtained solution was added dropwise over 15 minutes at -15° C. to a solution, which was prepared by stirring a mixture of 2-methyl-7-amino-3-cephem-4-carboxylic acid (1.60 g) and trimethylsilylacetamide (6.86 g) in ethyl acetate (100 ml) for an hour at room temperature. The mixture was stirred for an hour at the same temperature and thereto was added water (30 ml) and then the temperature of the mixture was permitted to rise to room temperature. The precipitates were collected by filtration washed with water and then dried over phosphorus pentoxide under reduced pressure to give 2-methyl-7-[2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), which can be represented as 2-methyl-7-[2-ethoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid (syn isomer), (1.68 g). The ethyl acetate layer in the mother liquor was separated, washed with water, dried over magnesium sulfate and then concentrated under reduced pressure to give powder of the same compound (1.54 g). Total yield: 3.22 g.

reactant | phosphorus oxychloride | 1.37 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetic acid | C(C)ON=C(C(=O)O)C=1N=C(SC1)NC=O | C8H9N3O4S
reactant | 2-ethoxyimino-2-(2-formylimino-2,3-dihydrothiazol-4-yl)acetic acid | 2.00 g | C(C)ON=C(C(=O)O)C=1NC(SC1)=NC=O | C8H9N3O4S
reactant | 2-methyl-7-amino-3-cephem-4-carboxylic acid | 1.60 g | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2N)=O | C8H10N2O3S
reactant | trimethylsilylacetamide | 6.86 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | dimethylformamide | 0.65 g | CN(C=O)C | C3H7NO
product | 2-methyl-7-[2-ethoxyimino-2-(2-formylaminothiazol-4-yl)acetamido]-3-cephem-4-carboxylic acid | CC1S[C@H]2N(C(=C1)C(=O)O)C(C2NC(C(C=2N=C(SC2)NC=O)=NOCC)=O)=O | C16H17N5O6S2
